US05728835
4-Nitro-N-(3-trifluoromethylphenyl)benzamide
Using 3-trifluoromethylaniline (1.77 g, 11.0 mmol) and 4-nitrobenzoic acid (1.67 g, 10.0 mmol), the procedure of Reference Example 16 was repeated to obtain 2.48 g (80.0%) of the title compound in the form of colorless powder.

reactant | 3-trifluoromethylaniline | 11.0 mmol, 1.77 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | 4-nitrobenzoic acid | 10.0 mmol, 1.67 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
product | 4-Nitro-N-(3-trifluoromethylphenyl)benzamide | 2.48 g, 80.0% | [N+](=O)([O-])C1=CC=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=C1 | C14H9F3N2O3
